US04843068
Tert-butyl 4-[(1,3-dimethyl-5-phenoxypyrazol-4-yl)methyleneaminooxymethyl]benzoate (compound No. 60)
2.0 Grams (0.00855 mole) of 1,3-dimethyl-5-phenoxypyrazole-4-carbaldehyde oxime was dissolved in 20 ml of dimethyl sulfoxide, and after adding 0.65 g (0.0116 mole) of powdery potassium hydroxide, the resulting mixture was stirred at 30° C. for 30 minutes. To this solution was added 2.32 g (0.00855 mole) of tert-butyl 4-bromomethylbenzoate, and reaction was carried out at from 50° to 60° C. for 1 hour. After completion of the reaction, water was added to the reaction solution which was then extracted with ethyl acetate. The ethyl acetate extract was washed with water and dried, and ethyl acetate was removed by evaporation to obtain crude crystals. The crystals were recrystallized from methanol to obtain 2.4 g of the desired compound.

reactant | 1,3-dimethyl-5-phenoxypyrazole-4-carbaldehyde oxime | 0.00855 mole | CN1N=C(C(=C1OC1=CC=CC=C1)C=NO)C | C12H13N3O2
reactant | potassium hydroxide | 0.0116 mole, 0.65 g | [OH-].[K+]
reactant | tert-butyl 4-bromomethylbenzoate | 0.00855 mole, 2.32 g | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | Tert-butyl 4-[(1,3-dimethyl-5-phenoxypyrazol-4-yl)methyleneaminooxymethyl]benzoate | 2.4 g, Yield 67.0% | CN1N=C(C(=C1OC1=CC=CC=C1)C=NOCC1=CC=C(C(=O)OC(C)(C)C)C=C1)C | C24H27N3O4
